US04703046
7-[2-(2-Formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 2.4 g.) was treated with conc. hydrochloric acid (1.3 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-(2-amino-5-methylthiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 2.3 g.).

reactant | 7-[2-(2-Formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.4 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC)C | C18H17N7O6S4
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
product | 7-[2-(2-amino-5-methylthiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride | 2.3 g | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC)C | InChI=1S/C17H17N7O5S4.ClH/c1-6-8(21-16(18)33-6)9(23-29-2)12(25)20-10-13(26)24-11(15(27)28)7(3-30-14(10)24)4-31-17-22-19-5-32-17;/h5,10,14H,3-4H2,1-2H3,(H2,18,21)(H,20,25)(H,27,28);1H/t10?,14-;/m1./s1
